US04215123
1-Ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine
A stirred mixture of 0.5 g. of 1-ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester was heated under reflux for 5 hours in 20 ml. of a 20% sodium hydroxide solution was cooled and was acidified with glacial acetic acid. The precipitate which formed was collected, air dried and was recrystallized from ethanol to give 0.2 g. of the title compound, m.p. 320°-3° C. dec.

reactant | 1-ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1O)C)CC)=O | C14H16N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine | C(C)N1C(C=C(C2=CC=C(N=C12)C)O)=O | C11H12N2O2
